US06426345B1
A mixture of 2-(3-acetylamino-5-methoxycarbonylphenylamino)-3-nitropyridine (1.20 g) and 10% palladium on carbon (0.25 g) in methanol (15 ml) and 1,4-dioxane (15 ml) was stirred under hydrogen (3 atm) at room temperature for 3 hours. The catalyst was removed by filtration and the solvent was evaporated. The resulting solid was collected and washed with isopropyl ether to give 2-(3-acetylamino-5-methoxycarbonylphenylamino)-3-aminopyridine (1.10 g).

reactant | 2-(3-acetylamino-5-methoxycarbonylphenylamino)-3-nitropyridine | 1.20 g | C(C)(=O)NC=1C=C(C=C(C1)C(=O)OC)NC1=NC=CC=C1[N+](=O)[O-] | C15H14N4O5
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
solvent | methanol | 15 ml | CO | CH4O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-(3-acetylamino-5-methoxycarbonylphenylamino)-3-aminopyridine | 1.10 g | C(C)(=O)NC=1C=C(C=C(C1)C(=O)OC)NC1=NC=CC=C1N | C15H16N4O3
